US04980509
Preparation of ethyl 6-[(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl) methylene]-2-naphthylsulfone
A suspension of 0.50 g of ethyl 6-[(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl) carbonyl]-2-naphthylsulfone, described in Example XIV, in 10 cm3 of glacial acetic acid and 0.65 g of powdered zinc is heated at reflux with stirring for 1 hour. There is then slowly added 0.9 cm3 of concentrated HCl. Reflux is again maintained for one hour after the end of the addition of the HCl and there is again added 0.9 cm3HCl. The mixture is then brought for one hour again to the boiling temperature of acetic acid and then left to stand overnight. The next day the reaction mixture is poured into 20 cm3 of 6N HCl and extracted three times with 30 cm3 of ethyl ether. The combined ether phases are washed with water, decanted and dried on sodium sulfate. After evaporation of the solvent 0.5 g of yellow powder is obtained which is then dissolved in methylene chloride. The solution is deposited on a silica gel chromatography column. After concentration of the fractions containing the pure expected product and drying, 0.32 g of ethyl 6-[(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl) methylene]-2-methylsulfone in the form of white crystals whose melting point is 174° C. is obtained.

reactant | ethyl 6-[(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl) carbonyl]-2-naphthylsulfone | 0.50 g | C(C)C1=C(C=CC2=CC(=CC=C12)C(=O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)S(=O)(=O)C1=C(C2=CC=C(C=C2C=C1)C(=O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)CC | C54H58O4S
reactant | HCl | 0.9 cm3 | Cl | ClH
reactant | HCl | 6N, 20 cm3 | Cl | ClH
solvent | acetic acid | 10 cm3 | C(C)(=O)O | C2H4O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | zinc | 0.65 g | [Zn] | Zn
product | ethyl 6-[(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl) methylene]-2-naphthylsulfone | C(C)C1=C(C=CC=2CC(C=CC12)=CC1=CC=2C(CCC(C2C=C1)(C)C)(C)C)S(=O)(=O)C1=C(C=2C=CC(CC2C=C1)=CC1=CC=2C(CCC(C2C=C1)(C)C)(C)C)CC | C54H62O2S
